US04550105
To 6 ml of N,N-dimethylformamide are added 740 mg of cis-1(2,4-dimethoxybenzyl)-4-iodomethyl-3-phenylacetamido-2-oxoazetidine and 146 mg of sodium azide and the mixture is stirred for 4 days at room temperature. The solvent is distilled off in vacuo, and ethyl acetate and water are added to the residue. The ethyl acetate layer is separated, washed with an aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent is distilled off in vacuo. To the residue, ether is added and the precipitated crystals are collected by filtration to give cis-4-azidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine, m.p. 110°-111° C.

reactant | cis-1(2,4-dimethoxybenzyl)-4-iodomethyl-3-phenylacetamido-2-oxoazetidine | 740 mg | COC1=C(CN2C([C@H]([C@H]2CI)NC(CC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C21H23IN2O4
reactant | sodium azide | 146 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | cis-4-azidomethyl-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine | N(=[N+]=[N-])C[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)NC(CC1=CC=CC=C1)=O | C21H23N5O4
